US09290451B2
c) 3-Amino-3-methyl-1-morpholinobutan-1-one hydrochloride
tert-Butyl 2-methyl-4-morpholino-4-oxobutan-2-ylcarbamate (0.5 g, 1.7 mmol) was dissolved in a saturated solution of hydrogen chloride in ethyl acetate (20 mL). The mixture was stirred for 3 h. The solvent was removed by reduced pressure to give crude product (0.55 g).

reactant | tert-Butyl 2-methyl-4-morpholino-4-oxobutan-2-ylcarbamate | 1.7 mmol, 0.5 g | CC(C)(CC(=O)N1CCOCC1)NC(OC(C)(C)C)=O | C14H26N2O4
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 3-Amino-3-methyl-1-morpholinobutan-1-one hydrochloride | 0.55 g | Cl.NC(CC(=O)N1CCOCC1)(C)C | InChI=1S/C9H18N2O2.ClH/c1-9(2,10)7-8(12)11-3-5-13-6-4-11;/h3-7,10H2,1-2H3;1H
